US04065431
To 1 liter of dry tetrahydrofuran was added 52 g of diisopropylamine. The mixture was cooled to -78° C and 325 ml of 1.6 M n-butyllithium in hexane was added. After 1 hour of stirring 52 g of methyl isobutyrate was added dropwise followed by stirring for another 30 minutes. Then 63 g of α,α'-dibromo-p-xylene was slowly added. The reaction mixture was stirred overnight and brought to room temperature. The mixture was filtered and solvent was removed from the filtrate by evaporation. The residue was recrystallized from methanol to obtain 63 g of 1,4-bis(2-carbomethoxy-2-methylpropyl)benzene, m.p. 74°-76° C.

reactant | diisopropylamine | 52 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6 M, 325 ml | C(CCC)[Li]
reactant | methyl isobutyrate | 52 g | C(C(C)C)(=O)OC | C5H10O2
reactant | α,α'-dibromo-p-xylene | 63 g | BrCC1=CC=C(C=C1)CBr | C8H8Br2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
product | 1,4-bis(2-carbomethoxy-2-methylpropyl)benzene | 63 g | C(=O)(OC)C(CC1=CC=C(C=C1)CC(C)(C(=O)OC)C)(C)C | C18H26O4
